US07034034B2
To an ice-water cooled mixture of trans-4-{4-[3-(trifluoromethyl)phenyl]imidazol-2-yl}cyclohexanecarboxylic acid (1.48 mmol), 4-methylbenzenesulfonamide (1.48 mmol), and DMAP (1.48 mmol) in dichloromethane (10 mL) under nitrogen, EDC (1.48 mmol) was added. The mixture was stirred at room temperature overnight, concentrated and chromatographed on silica gel (19:1 EtOAc-MeOH eluent) to give trans-N-[(4-methylphenyl)sulfonyl](4-{4-[3-(trifluoromethyl)phenyl]-imidazol-2-yl}cyclohexyl)carboxamide.

reactant | trans-4-{4-[3-(trifluoromethyl)phenyl]imidazol-2-yl}cyclohexanecarboxylic acid | 1.48 mmol | FC(C=1C=C(C=CC1)C=1N=C(NC1)[C@@H]1CC[C@H](CC1)C(=O)O)(F)F | C17H17F3N2O2
reactant | 4-methylbenzenesulfonamide | 1.48 mmol | CC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO2S
reactant | EDC | 1.48 mmol
catalyst | DMAP | 1.48 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | trans-N-[(4-methylphenyl)sulfonyl](4-{4-[3-(trifluoromethyl)phenyl]-imidazol-2-yl}cyclohexyl)carboxamide | CC1=CC=C(C=C1)S(=O)(=O)NC(=O)[C@@H]1CC[C@H](CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F | C24H24F3N3O3S
